US07179818B2
(Method 1A) To a mixture of 9.3 g (0.1 mol) of aniline and 16.1 g (0.1 mol) of 1-azabicyclo[2.2.2]octan-3-one hydrochloride in 250 mL of dichloroethane (DCE) was added 31.8 g (0.15 mol) of Na(OAc)3BH and the mixture was stirred overnight at room temperature. The reaction was quenched with 3 N NaOH. The layers were separated and the aqueous layer was extracted with an additional portion of CHCl3. The organic layers were combined, dried over NaSO4, and then filtered and the solvent was evaporated in vacuo. Th residue was chromatographed on silica (95/5 CHCl3/10% NH4OH in MeOH) to give N-Phenyl-1-azabicyclo[2.2.2]octan-3-amine (6.0 g 30%) as an off-white solid. MH+=203. 1H NMR (CDCl3) 1.46 (m, 1H), 1.75 (m, 3H), 2.0 (m, 1H), 2.55 (m, 1H), 2.95 (m, 4H), 3.4 (m, 2H), 3.8 (s, 1H), 6.6 (d, 2H), 6.75 (t, 1H), 7.2 (t, 2H).

reactant | aniline | 0.1 mol, 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | 1-azabicyclo[2.2.2]octan-3-one hydrochloride | 0.1 mol, 16.1 g | Cl.N12CC(C(CC1)CC2)=O
reactant | Na(OAc)3BH | 0.15 mol, 31.8 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 250 mL | ClC(C)Cl | C2H4Cl2
product | N-Phenyl-1-azabicyclo[2.2.2]octan-3-amine | 6.0 g, 30% | C1(=CC=CC=C1)NC1CN2CCC1CC2 | C13H18N2
